US05066658
To a stirred slurry of benzyloxyamine hydrochloride (3.19 g, 20 mmol) in the THF (40 ml) at room temperature under nitrogen was added triethylamine (6.13 ml). This slurry was stirred, and dimethylcarbamyl chloride (1.84 ml) was added rapidly. 4-(N,N-dimethylamino)pyridine (1.0 g, 0.4 equiv.) was added, and the mixture was stirred for 20 hours. The mixture was filtered, and the filtrate evaporated. Purification by chromatography on silica provided N,N-dimethyl-N'benzyloxyurea as a colorless oil (1.62 g, 42% yield).

reactant | benzyloxyamine hydrochloride | 20 mmol, 3.19 g | Cl.C(C1=CC=CC=C1)ON
reactant | triethylamine | 6.13 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamyl chloride | 1.84 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | 4-(N,N-dimethylamino)pyridine | 1.0 g, 0.4 equiv. | CN(C)C1=CC=NC=C1 | C7H10N2
product | N,N-dimethyl-N'benzyloxyurea | 1.62 g, 42% yield | CN(C(=O)NOCC1=CC=CC=C1)C | C10H14N2O2
